US06200990B1
Preparation of Benzyl (6-benzyloxy-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)carboxylate intermediate
To a solution of Trolox® (10 g, 39.1 mmol) at) at 0° C. in DMF (50 mL), was added sodium hydride (60% dispersion in oil, 3.5 g, 87.9 mmol). The reaction mixture was stirred at 0° C. for 15 minutes and then benzyl bromide (17.1 g, 99.9 mmol) was added drop wise. The reaction mixture was allowed to warm to room temperature and stirred for overnight. DMF was evaporated under high vacuum and then the residue was dissolved in ethyl acetate (200 mL) and washed with 1 N aqueous HCl (100 mL) and brine (100 mL) to give 10.1 g (58.7%) of an oil of the intermediate, benzyl (6-benzyloxy-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)carboxylate. 1H NMR (CDCl3) δ1.57 (s, 3H), 1.82 (m, 1H), 2.02 (s, 3H), 2.08 (s, 3H), 2.15 (s, 3H), 2.44 (m, 3H), 4.61 (s, 2H), 5.00 (q, 2H), 7.00-7.45 (m, 10H). MS(ES) m/z 431.

reactant | Trolox | CC=1C(=C2C(=C(C1O)C)CCC(O2)(C)C(=O)O)C | C14H18O4
reactant | sodium hydride | 87.9 mmol, 3.5 g | [H-].[Na+]
reactant | benzyl bromide | 99.9 mmol, 17.1 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | Benzyl (6-benzyloxy-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)carboxylate | 10.1 g, 58.7% | C(C1=CC=CC=C1)OC=1C(=C(C2=C(CCC(O2)(C)C(=O)OCC2=CC=CC=C2)C1C)C)C | C28H30O4
